US07037916B2
4-Methylimidazole (11.45 g, 140 mmol) was added in one portion to a solution of trichloropyrimidine in (2.47 g, 135 mmol) and triethylamine (30 mL, 216 mmol) in THF (500 mL). After 16 hrs, the reaction mixture was poured into saturated, aqueous ammonium chloride and extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over MgSO4. The reaction mixture was filtered and all volatiles were removed under reduced pressure. 2-(4-methylimidazolyl)-4,6-dichloropyrimidine was isolated by flash chromatography (15% ethyl acetate in hexane) as an off-white solid.

reactant | 4-Methylimidazole | 140 mmol, 11.45 g | CC=1N=CNC1 | C4H6N2
reactant | trichloropyrimidine | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | triethylamine | 216 mmol, 30 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-(4-methylimidazolyl)-4,6-dichloropyrimidine | CC=1N=C(NC1)C1=NC(=CC(=N1)Cl)Cl | C8H6Cl2N4
